US20010049372A1
(2R)-2-benzoyloxymethyl-4-(R,S)-acetoxy-1,3-dioxolane
To a solution of (2R.4R)-2-benzoyloxymethyl-1,3-dioxolane-4-carboxylic acid, (130 g, 0.515 moles, 1 eq) and pyridine (60 mL, 0.741 moles, 1.44 eq) in acetonitrile at 4° C., lead tetraacetate. (assay 95%, 300 g, 0.678 moles, 1.25 eq) was added over a period of 20 min. The reaction mixture was kept under stirring for 18 hours at RT. The inorganics were removed by filtration, the filtrate was poured on to a saturated solution of sodium bicarbonate (2 L) followed by addition of solid sodium bicarbonate (pH=7-8). The organic phase was separated, and the aqueous phase was extracted with ethylacetate (3×400 mL). The combined organic phase was concentrated and purified by column chromatography, on silica gel, using hexanes/ethylacetate as eluent to produce 93.5 g (68%) of the title compound as a mixture of cis and trans isomers in a ratio of 2:1. The mixture was used for next step.

reactant | (2R.4R)-2-benzoyloxymethyl-1,3-dioxolane-4-carboxylic acid | 0.515 moles, 130 g, 1 eq | C(C1=CC=CC=C1)(=O)OC[C@@H]1OC[C@@H](O1)C(=O)O | C12H12O6
reactant | pyridine | 0.741 moles, 60 mL, 1.44 eq | N1=CC=CC=C1 | C5H5N
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | acetonitrile | C(C)#N | C2H3N
product | (2R)-2-benzoyloxymethyl-4-(R,S)-acetoxy-1,3-dioxolane | 93.5 g, 68% | C(C1=CC=CC=C1)(=O)OC[C@@H]1OCC(O1)OC(C)=O | C13H14O6
